US05716936
A The process is performed as described in Example 1A, but starting with 2 g of (2RS,4SR,5RS)-5-(2-fluorophenyl)-2-isobutylcarbamoyl-1-{2-[3-(3-methoxycarbonylphenyl)ureido]acetyl}-4-(4-nitrophenyl)sulphonylpyrrolidine and 0.16 g of potassium hydroxide in a mixture of 60 cm3 of methanol and 20 cm3 of distilled water. After treatment, 0.9 g of (2RS,4SR,5RS)-3-(3-{2-[5-(2-fluorophenyl)-2-isobutylcarbamoyl-4-(4-nitrophenyl)sulphonyl-1-pyrrolidinyl]-2-oxoethyl}ureido)benzoic acid is obtained [Rf=0.2; eluent: methylene chloride/methanol (90/10); 1H NMR spectrum (200 MHz, (CD3)2SO with addition of a few drops of CD3COOD, at a temperature of 383 K, δ in ppm): 0.94 (d, J=6.5 Hz, 6H: C(CH3)2); 1.89 (mt, 1H: CH); from 2.65 to 3.00 (2 mts, 1H each: CH2 at 3); 3.08 (mt, 2H: NCH2); 3.72 and 3.91 (broad d and d respectively, J=17 Hz, 1H each: COCH2N); 4.21 (mt, 1H: H4); 4.83 (t, J=7.5 Hz, 1H: H2); 5.71 (d, J=3 Hz, 1H: H5); from 6.95 to 7.65 (mt, 6H:aromatic H); 8.02 (mt, 1H: aromatic H (H2: ortho to the COOH)); 8.18 (broad t, J=8 Hz, 1H: H of the aromatic at 5 (H6)); 8.25 (d, J=8.5 Hz, 2H: H of the aromatic at 4 (H meta to the NO2)); 8.42 (d, J=8.5 Hz, 2H: H of the aromatic at 4 (H ortho to the NO2))].

reactant | (2RS,4SR,5RS)-5-(2-fluorophenyl)-2-isobutylcarbamoyl-1-{2-[3-(3-methoxycarbonylphenyl)ureido]acetyl}-4-(4-nitrophenyl)sulphonylpyrrolidine | 2 g | FC1=C(C=CC=C1)C1C(CC(N1C(CNC(=O)NC1=CC(=CC=C1)C(=O)OC)=O)C(NCC(C)C)=O)S(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C32H34FN5O9S
reactant | potassium hydroxide | 0.16 g | [OH-].[K+]
solvent | methanol | 60 cm3 | CO | CH4O
solvent | water | 20 cm3 | O | H2O
product | (2RS,4SR,5RS)-3-(3-{2-[5-(2-fluorophenyl)-2-isobutylcarbamoyl-4-(4-nitrophenyl)sulphonyl-1-pyrrolidinyl]-2-oxoethyl}ureido)benzoic acid | 0.9 g | FC1=C(C=CC=C1)C1C(CC(N1C(CNC(NC=1C=C(C(=O)O)C=CC1)=O)=O)C(NCC(C)C)=O)S(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C31H32FN5O9S
